US07179823B1
A mixture of 2-methyl-5-phenylpyridine (3.00 g), 3-chloroperbenzoic acid (4.79 g) and tetrahydrofuran (50 ml) was stirred at room temperature overnight, and concentrated. The residue was subjected to silica gel column chromatography to obtain a colorless oily substance from the fraction eluted with tetrahydrofuran. A solution of the resulting colorless oily substance in acetic anhydride (50 ml) was added slowly to acetic anhydride (50 ml) heated at 130° C., which was stirred at 2 hours, and concentrated. The residue was dissolved in ethyl acetate, which was washed with saturated aqueous sodium bicarbonate solution, and with saturated aqueous sodium chloride solution, and then dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to obtain 5-phenyl-2-pyridylmethyl acetate (3.68 g, yield 92%) as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 71–72° C.

reactant | 2-methyl-5-phenylpyridine | 3.00 g | CC1=NC=C(C=C1)C1=CC=CC=C1 | C12H11N
reactant | 3-chloroperbenzoic acid | 4.79 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-phenyl-2-pyridylmethyl acetate | 3.68 g, yield 92% | C(C)(=O)OCC1=NC=C(C=C1)C1=CC=CC=C1 | C14H13NO2
